US05958918
A. 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]-(3-phenylallyl)amide
The title compound is prepared as described in EXAMPLE 25, Part A using 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide, prepared as described in EXAMPLE 43, part A, and cinnamyl bromide. The crude product is purified by column chromatography eluting with gradient of 20% EtOAc/hexanes to 30% EtOAc/hexanes to afford the title compound as a white foam.

reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)=O)C=CC1 | C23H21N3O4S
reactant | cinnamyl bromide | C(C=CC1=CC=CC=C1)Br | C9H9Br
product | 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]-(3-phenylallyl)amide | C(#N)C=1C=C(CN2C([C@H](CC2)N(S(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)CC=CC2=CC=CC=C2)=O)C=CC1 | C32H29N3O4S
